US06291455B1
A solution of 7-(4-chlorobutoxy)4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline (3.64 g, 8.87 mmol) in morpholine (70 ml) was heated at 110° C. for 2 hours. The mixture was allowed to cool and was partitioned between ethyl acetate and water. The organic layer was separated, washed with brine, dried (MgSO4) and the volatiles removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride and methanol (92/8). The purified solid product was dissolved in methylene chloride and 3M ethereal hydrogen chloride was added. The volatiles were removed by evaporation, and the residue triturated with ether. The solid was collected by filtration, washed with ether and dried under vacuum at 60° C. to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(4-morpholinobutoxy)quinazoline hydrochloride (3.8 g, 78%).

reactant | 7-(4-chlorobutoxy)4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline | 8.87 mmol, 3.64 g | ClCCCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | C19H18Cl2FN3O2
reactant | morpholine | 70 ml | N1CCOCC1 | C4H9NO
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(4-morpholinobutoxy)quinazoline hydrochloride | 3.8 g, 78% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCCN2CCOCC2)C=C1)F | InChI=1S/C23H26ClFN4O3.ClH/c1-30-21-13-17-20(14-22(21)32-9-3-2-6-29-7-10-31-11-8-29)26-15-27-23(17)28-19-5-4-16(24)12-18(19)25;/h4-5,12-15H,2-3,6-11H2,1H3,(H,26,27,28);1H
